US06320050B1
A solution of {2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazol-4-yl}-acetic acid ethyl ester (prepared in Example 3(B)(d), 120 mg, 0.26 mmol) in diethyl ether (500 μL) was cooled to 0° C. and then slowly treated with lithium aluminum hydride (15 mg, 0.39 mmol). The reaction mixture was allowed to warm to 25° C. where it was stirred for 1 h. After 1 h at 25° C., thin layer chromatography still indicated the presence of the {2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazol-4-yl}-acetic acid ethyl ester. An additional amount of lithium aluminum hydride (10 mg, 0.26 mmol) was added to the reaction mixture, and the reaction mixture was allowed to stir at 25° C. for 1 h. The reaction mixture was then slowly quenched by the dropwise addition of water (10 mL). The resulting mixture was partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacua. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/3 hexanes/ethyl acetate) afforded 3-cyclopentyl-N-[4-(2-hydroxyethyl)-thiazol-2-yl]-2-(4-methanesulfonyl-phenyl)-propionamide (20 mg, 18%) as a yellow foam: mp 84-87° C.; EI-HRMS m/e calcd for C20H26N2O4S2 (M+) 422.1334, found 422.1335.

reactant | {2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazol-4-yl}-acetic acid ethyl ester | 0.26 mmol, 120 mg | C(C)OC(CC=1N=C(SC1)NC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C)=O)=O | C22H28N2O5S2
reactant | lithium aluminum hydride | 0.39 mmol, 15 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 0.26 mmol, 10 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 500 μL | C(C)OCC | C4H10O
product | 3-cyclopentyl-N-[4-(2-hydroxyethyl)-thiazol-2-yl]-2-(4-methanesulfonyl-phenyl)-propionamide | 20 mg, 18% | C1(CCCC1)CC(C(=O)NC=1SC=C(N1)CCO)C1=CC=C(C=C1)S(=O)(=O)C | C20H26N2O4S2
